US05506267
(2R,6R) 4 -[2-amino-6,7-bis(palmitoyloxy)-4-thiaheptanoylaminomethyl]benzoyl-glutamic acid di-t-butyl ester
A solution of (2R,6R) 4-[2-(9-fluorenylmethyloxycarbonylamino)-6,7-bis(palmitoyloxy)-4-thiaheptanoylaminomethyl]benzoyl-glutamic acid di-t-butyl ester as obtained in Reference Example 38 (243 mg) in dichloromethane (0.5 ml)-piperidine (2 ml) was stirred at room temperature for 30 minutes. After solvent concentration under reduced pressure, the resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1 to 1:3) to yield the title compound (195 mg, yield 97%) as a colorless wax-like substance.

reactant | (2R,6R) 4-[2-(9-fluorenylmethyloxycarbonylamino)-6,7-bis(palmitoyloxy)-4-thiaheptanoylaminomethyl]benzoyl-glutamic acid di-t-butyl ester | C(C)(C)(C)OC([C@H](NC(C1=CC=C(C=C1)CNC(C(CSC[C@@H](COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O)CCC(=O)OC(C)(C)C)=O | C74H113N3O12S
reactant | piperidine | 2 ml | N1CCCCC1 | C5H11N
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | (2R,6R) 4 -[2-amino-6,7-bis(palmitoyloxy)-4-thiaheptanoylaminomethyl]benzoyl-glutamic acid di-t-butyl ester | 195 mg, yield 97% | C(C)(C)(C)OC([C@H](NC(C1=CC=C(C=C1)CNC(C(CSC[C@@H](COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)N)=O)=O)CCC(=O)OC(C)(C)C)=O | C59H103N3O10S
